US06995144B2
6-Fluoro-3-[4-[2-(2-fluorophenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one
After dissolving 122 mg of 1-[1-(3-tert-butoxy-fluoro-2-pyrazinylmethyl)piperidin-4-yl]-2-(2-fluorophenyl)ethanone in 3 ml of trifluoroacetic acid, the mixture was stirred for 1.5 hours at room temperature. The reaction solution was cooled on ice, the pH was adjusted to 7 with a 5% sodium hydroxide solution, and extraction was performed with dichloromethane. The extract was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Diethyl ether was added to the residue and the mixture was filtered to obtain the title compound (97 mg, 93% yield).

reactant | 1-[1-(3-tert-butoxy-fluoro-2-pyrazinylmethyl)piperidin-4-yl]-2-(2-fluorophenyl)ethanone | 122 mg | C(C)(C)(C)OC=1C(=NC=CN1)C(N1CCC(CC1)C(CC1=C(C=CC=C1)F)=O)F | C22H27F2N3O2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Fluoro-3-[4-[2-(2-fluorophenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one | 97 mg, 93% yield | FC1=CN=C(C(N1)=O)CN1CCC(CC1)C(CC1=C(C=CC=C1)F)=O | C18H19F2N3O2
